US09328106B2
To a solution of 3-allyloxy-3-(2-methyl-4-nitro-pyrazol-3-yl)propanoic acid (4.33 g, 17 mmol) in DCM (48 mL) at 0° C. under nitrogen was added oxalyl chloride (4.37 mL, 51 mmol) followed by the cautious addition of DMF (0.05 mL) to initiate the acylation. The reaction mixture was stirred at room temperature for 3 hr and concentrated under reduced pressure. The residue was dissolved in DME (28 mL), vinyltributyltin (2.48 mL, 8.50 mmol) added and the mixture degassed with nitrogen for 30 min. trans-Benzyl(chloro)-bis(triphenylphosphine)palladium(II) (129 mg, 0.17 mmol) was added and degassing continued for 10 min. The reaction mixture was heated to 65° C. for 1 hr and cooled to room temperature. Concentration under reduced pressure and purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 5-(allyloxy)-5-(1-methyl-4-nitro-1H-pyrazol-5-yl)pent-1-en-3-one as a yellow syrup (2.76 g, 61%). A solution of this syrup (250 mg, 0.94 mmol) in toluene (90 mL) was degassed with nitrogen for 30 min at 35° C. Zhan 1B catalyst (26 mg, 0.04 mmol) dissolved in toluene (2 mL) was added to the reaction mixture and degassing continued for 15 min. After stirring at 35° C. for 1 h, the reaction mixture was cooled to room temperature and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 2-(2-methyl-4-nitro-pyrazol-3-yl)-3,7-dihydro-2H-oxepin-4-one as a colourless solid (107 mg, 30% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.05 (s, 1H), 6.44 (ddd, J=12.8, 3.4, 2.3 Hz, 1H), 6.15 (m, 1H), 6.01 (dd, J=11.1, 3.4 Hz, 1H), 4.72 (ddd, J=19.8, 3.4, 1.7 Hz, 1H), 4.61 (ddd, J=19.6, 2.4 Hz, 1H), 4.08 (s, 3H), 3.20-3.12 (m, 2H).

reactant | 3-allyloxy-3-(2-methyl-4-nitro-pyrazol-3-yl)propanoic acid | 17 mmol, 4.33 g | C(C=C)OC(CC(=O)O)C=1N(N=CC1[N+](=O)[O-])C | C10H13N3O5
reactant | oxalyl chloride | 51 mmol, 4.37 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.05 mL | CN(C)C=O | C3H7NO
reactant | vinyltributyltin | 8.50 mmol, 2.48 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | DCM | 48 mL | C(Cl)Cl | CH2Cl2
product | 5-(allyloxy)-5-(1-methyl-4-nitro-1H-pyrazol-5-yl)pent-1-en-3-one | 2.76 g, 61% | C(C=C)OC(CC(C=C)=O)C1=C(C=NN1C)[N+](=O)[O-] | C12H15N3O4
